US06642251B1
A mixture of 500 mg 5-chloro-1-indanone, 1.33 g oxindole and 0.5 ml piperidine in 3 ml dimethylforamide was heated in a sealed tube at 95° C. overnight. Water was added to the reaction mixture to yield.an oily solid. The mixture was sonicated for a few minutes then decanted. This washing procedure was repeated several times. The solid was then filtered and washed with ethyl acetate/hexanes (1:3) to yield 172 mg of 3-(5-chloroindan-1-ylidene)-1,3-dihydroindol-2-one as a mustard colored solid.

reactant | 5-chloro-1-indanone | 500 mg | ClC=1C=C2CCC(C2=CC1)=O | C9H7ClO
reactant | oxindole | 1.33 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | Water | O | H2O
solvent | dimethylforamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(5-chloroindan-1-ylidene)-1,3-dihydroindol-2-one | 172 mg | ClC=1C=C2CCC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C17H12ClNO
